US07018988B2
(2S,4EZ)-1-(4-cyanobenzoyl)-N-(9-ethyl-9H-carbazol-3-yl)-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 4-cyanobenzoyl chloride, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 72% purity by LC/MS. MS(ESI+): m/z=480.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-1-(4-cyanobenzoyl)-N-(9-ethyl-9H-carbazol-3-yl)-4-(methoxyimino)-2-pyrrolidinecarboxamide | C(#N)C1=CC=C(C(=O)N2[C@@H](CC(C2)=NOC)C(=O)NC=2C=CC=3N(C4=CC=CC=C4C3C2)CC)C=C1 | C28H25N5O3
